reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4](=[O:5])[C:6]([H:14])([H:15])[H:16])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C+:2]=[C:4]([O-:5])[C:6]([H:14])([H:15])[H:16])([H:7])([H:8])[H:9].[C:3]([H:10])([H:11])([H:12])[H:13],87.2758087589658
[C:1]([C@@:2]([C:3]([C:5]([H:13])([H:14])[H:15])([H:11])[H:12])([C:4][O:6][H:16])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5]([H:13])([H:14])[H:15])[O:6][H:16])([H:7])([H:8])[H:9],54.07625251266301
[N:1]([C:2](=[O:3])[N:4]([C:5]([C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])[H:10])([H:8])[H:9]>>[N:1](/[C:2]([O:3][H:10])=[N:4]\[C:5]([C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:8])[H:9],43.2297718359875
[C:1]([C:2]([O:3][C:4]([C:5]#[N:6])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O+:3][C-:4]([H:12])[H:13])[H:10])([H:7])([H:8])[H:9].[C:5](#[N:6])[H:11],77.12214137542259
[O:1]([C:2]([C@@:3]([C:4](=[O:5])[H:12])([C:6]#[C:7][H:13])[H:11])([H:9])[H:10])[H:8]>>[O:1]([C@@:2]1([H:10])[C@:3]([C:4](=[O:5])[H:12])([H:11])[C:6]1=[C:7]([H:9])[H:13])[H:8],72.1851156148479
[N:1](=[C:2]=[O:3])[H:5].[N:4]([H:6])([H:7])[H:8]>>[N:1]([C:2](=[O:3])[N:4]([H:7])[H:8])([H:5])[H:6],32.098279749266794
[C:1]([O:2][C:3]([C:4]([N:5]([C:6](=[O:7])[H:16])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]([C:4]([H:13])([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10].[N:5](=[C:6]=[O:7])[H:16],89.393898781599
[C:1]([C:2]([C:3]([O+:5]=[C-:4][H:13])([H:10])[H:12])([H:9])[H:11])([H:6])([H:7])[H:8]>>[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4](=[O:5])[H:13])[H:9])([H:6])([H:7])[H:8],50.86846939646571
[C:1]([C:2][C:4]([C:3]([C:5]#[N:6])([H:10])[H:11])([H:12])[H:13])([H:7])([H:8])[H:9]>>[C:1]([C:2]1([C:5]#[N:6])[C:3]([H:10])([H:11])[C:4]1([H:12])[H:13])([H:7])([H:8])[H:9],18.160566788363788
[C:1]([C:2](=[O:3])[C:4]([C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])/[C:4](=[C:5](/[O:6][H:11])[H:12])[H:10])([H:7])([H:8])[H:9],58.094103232505596
[C:2]1(=[O:3])[C:4]([H:10])([H:11])[O:5]/[C:6]1=[N:7]/[H:13].[N:1]([H:8])([H:9])[H:12]>>[N:1]([C:2](=[O:3])[C:4]([O:5]/[C:6](=[N:7]/[H:13])[H:12])([H:10])[H:11])([H:8])[H:9],52.11505581530571
[C:1]1([H:7])([H:9])[C:2]([H:8])([H:10])[C:3]([H:11])([H:12])[C:4]([H:13])=[C:5]=[N:6]1>>[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5]#[N:6])[H:13])([H:7])([H:8])[H:9],43.303951282593
[C:1]([C:2]([O:3][C:4](=[C:5]=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9].[H:13][H:14]>>[C:1]([C:2]([O:3][C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],41.907641367419394
[C:1]([C:2]([C:3]([C:4]([O:5][H:15])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1](=[C:2]([C:3]([C:4]([O:5][H:15])([H:13])[H:14])([H:11])[H:12])[H:10])([H:6])[H:7].[H:8][H:9],114.059966863742
[C:1]([C@@:2]1([H:11])[N:3]([H:12])[C@:4]1([C@@:5]1([H:14])[C:6]([H:15])([H:16])[O:7]1)[H:13])([H:8])([H:9])[H:10]>>[C:1]([C-:2]1[N+:3]([H:11])([H:12])[C@:4]1([C@@:5]1([H:14])[C:6]([H:15])([H:16])[O:7]1)[H:13])([H:8])([H:9])[H:10],66.33650616851271
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([N:4]([C:5]([H:15])([H:16])[H:17])[C:6](=[O:7])[H:18])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:13])([H:14])[C@@:6]([O:7][H:12])([H:18])[N:4]1[C:5]([H:15])([H:16])[H:17])([H:8])([H:9])[H:10],95.5798329226803
[O:1]=[C:2]([C:3]#[C:4][C:5](=[O:6])[H:8])[H:7]>>[O:1]=[C:2]=[C:3]=[C:4]([C:5](=[O:6])[H:8])[H:7],74.90864061543309
[C:1]([C:2]([C:3]([C@@:4]([C:5]([H:16])([H:17])[H:18])([C:6]#[N:7])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]1([H:9])([H:10])[C:2]([H:11])([H:12])[C:3]([H:13])([H:14])[C@:4]([C:5]([H:16])([H:17])[H:18])([H:15])[C:6][N:7]1[H:8],104.680960405753
[C:1](=[C:2]=[C:3]1[C:4]([H:10])([H:11])[C@@:5]1([O:6][H:9])[H:12])([H:7])[H:8]>>[C:1]([C:2]#[C:3][C:4]([C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],29.482182386123597
[C:1]([C:2]#[C:3][C:4]([C:5]#[C:6][H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]#[C:3][C:4]([C:6](=[C:5])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],59.829809009224995
[C:1]([O:4][C:3](=[C:2]([H:10])[H:11])[O:5][C:6]([H:12])([H:13])[H:14])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3](=[O:4])[O:5][C:6]([H:12])([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9],68.65702161115041
[C:1]([H:8])([H:9])([H:10])[H:13].[C:2](=[O+:3][C:4]([C:5]([H:14])([H:15])[H:16])=[C:6]([O-:7])[H:17])([H:11])[H:12]>>[C:1]([C:2]([O:3][C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6](=[O:7])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],27.911899408127503
[C:1]([C:2](=[O:4])[C:5]([O:6][H:13])([H:14])[H:15])([H:7])([H:8])[H:9].[C:3]([H:10])([H:11])([H:12])[H:16]>>[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([O:4][H:13])[C:5]([O:6][H:16])([H:14])[H:15])([H:7])([H:8])[H:9],71.72415810151175
[C:1]([O:4][C:3](=[C:2]([H:10])[H:11])[C:5](=[O:6])[H:12])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3](=[O:4])[C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],79.07956496515452
